US08754100B2
Synthesis of 3-(4-bromo-2-trifluoromethylphenyl)piperidine-2-ylideneamine
A saturated ammonia-ethanol solution (2.5 mL) was added to ethyl 2-(4-bromo-2-trifluoromethylphenyl)-5-chloropentanimidate hydrochloride obtained in Preparation Example 3-1 (500 mg), and the mixture was stirred at room temperature for eight days. The insoluble matter was removed by filtration and then the filtrate was concentrated under reduced pressure. Methylene chloride and a 1 N sodium hydroxide solution were added to the resulting residue, and the organic layer was separated. The aqueous layer was reextracted with methylene chloride. The combined organic layers were dried over anhydrous potassium carbonate and concentrated under reduced pressure to obtain 320 mg of the title compound. The property values of the compound are as follows.

reactant | ammonia ethanol | 2.5 mL | N.C(C)O
reactant | ethyl 2-(4-bromo-2-trifluoromethylphenyl)-5-chloropentanimidate hydrochloride | Cl.BrC1=CC(=C(C=C1)C(C(OCC)=N)CCCCl)C(F)(F)F
product | 3-(4-bromo-2-trifluoromethylphenyl)piperidine-2-ylideneamine | 320 mg | BrC1=CC(=C(C=C1)C1C(NCCC1)=N)C(F)(F)F | C12H12BrF3N2
